US07259266B2
Step 4: Preparation of 6-ethyl-2-(trifluoromethyl)-2H-chromene-3-carboxylic acid
A 15 mL single-neck round bottom flask was charged with ethyl 6-ethyl-2-(trifluoromethyl)-2H-chromene-3-carboxylate (0.238 g, 0.932 mmole), THF:EtOH:H2O (7:2:1 by volume, 3 mL), and aqueous NaOH (0.41 mL of 2.5 N aq solution, 1.026 mmole). The reaction was stirred at RT under nitrogen for 3 days and was concentrated in vacuo (high vacuum) to yield a semi-solid. The semi-solid was dissolved in H2O, washed with diethyl ether, and sparged with nitrogen with gentle warming. The resulting organic solvent-free aqueous phase was acidified with concentrated HCl with stirring providing a slurry. The slurry was vacuum filtered yielding a white solid. The solid was dried on high vacuum yielding the title compound as a white powder (0.178 g, 70%): mp 145-149° C. LCMS m/z 273.15 (M+H). HRMS m/z 271.0600 (M−H, C13H10F3O, Cald'd 271.0577). 1H NMR (acetone-d6/300 MHz) 7.86 (s, 1H), 7.30 (d, 1H, J=2.0 Hz), 7.27 (d, 1H, J=8.3 Hz), 6.94 (d, 1H, J=8.3 Hz), 5.77 (q, 1H, J=7.0 Hz), 2.61 (q, 2H, J=7.5 Hz), 1.21 (t, 3H, J=7.5 Hz).

reactant | ethyl 6-ethyl-2-(trifluoromethyl)-2H-chromene-3-carboxylate | 0.932 mmole, 0.238 g | C(C)C=1C=C2C=C(C(OC2=CC1)C(F)(F)F)C(=O)OCC | C15H15F3O3
reactant | THF EtOH H2O | 3 mL | C1CCOC1.CCO.O
reactant | NaOH | 1.026 mmole, 2.5 N, 0.41 mL | [OH-].[Na+]
solvent | H2O | O | H2O
product | 6-ethyl-2-(trifluoromethyl)-2H-chromene-3-carboxylic acid | 0.178 g, 70% | C(C)C=1C=C2C=C(C(OC2=CC1)C(F)(F)F)C(=O)O | C13H11F3O3
